Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[N:1]([C@:2]1([H:9])[C:3]([N+:6]#[C-:5])=[N:4]1)([H:7])[H:8]>>[N:1]([C:2]([C:3]#[N:4])([C:5]#[N:6])[H:9])([H:7])[H:8],17.23144930103109
[C:1]([C@@:2]([C:3]#[N:4])([C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]1([H:9])([H:10])[C@@:2]([C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])([H:11])[C:3][N:4]1[H:8],116.93667340318899
[C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]1([H:14])[O:4][C@:5]1([O:6][H:13])[N:7]([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10],81.4975969135657
[O:1]([C:2]([C:3](=[O:4])[C:5]#[N:6])([H:8])[H:9])[H:7]>>[H:7][H:9].[O:1]=[C:2]([C:3](=[O:4])[C:5]#[N:6])[H:8],90.679450360807
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:4][H:14])([H:8])([H:9])[H:10].[C:2](=[C:3]([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:13])([H:11])[H:12],97.8396946962681
[H:8][H:11].[O:1]([C:2]1=[C:4]([C:5]#[N:6])[C:3]1([H:9])[H:10])[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[N:6])[H:11])[H:7],65.4592739763257
[C:1]([C@@:2]1([H:11])[C@:3]([C:4]([H:13])([H:14])[H:15])([H:12])[C:5]1([C:6]([H:16])([H:17])[H:18])[C:7]([H:19])([H:20])[H:21])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:12].[C:2]1([H:11])=[C:3]([C:4]([H:13])([H:14])[H:15])[C:5]1([C:6]([H:16])([H:17])[H:18])[C:7]([H:19])([H:20])[H:21],93.491449837398
[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5](=[O:6])[H:12])[H:10])([H:8])[H:9])[H:7]>>[C:2]1([H:8])([H:9])[C@:3]([O:4][H:11])([H:10])[C:5]([H:12])[O:6]1.[O:1][H:7],114.134833080147
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([O:5][C:6]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[C:4]([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[H:13][H:17].[O:5]=[C:6]([H:16])[H:18],58.964112809765204
[C:1]1([H:7])([H:8])[C@:2]([C:3]([H:10])([H:11])[H:12])([H:9])[C@:4]1([C:5][H:13])[H:6]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]#[C:5][H:13])[H:9])([H:6])([H:7])[H:8],28.170350104346994
[C:1]([H:8])([H:9])([H:10])[H:12].[C:2](=[O:3])([C:4]([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:13])[H:14])[H:11]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],80.94646654074562
[C:1]([O:2][C:3](/[C:4](=[N:5]\[O:6][H:13])[C:7]([H:14])([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](/[C:4](=[N:5]\[C:7]([H:14])([H:15])[H:16])[O:6][H:13])([H:11])[H:12])([H:8])([H:9])[H:10],80.3763332134488
[O:1]=[c:2]1[c:3]([H:8])[c:4]([H:9])[n:5]([H:10])[c:6]([H:11])[n:7]1>>[O:1]=[C:2]1[C+:3]([H:8])[C:4]([H:9])=[N:5][C:6]([H:10])([H:11])[N-:7]1,65.58067790545671
[C:1]1([H:7])([H:8])[C@@:2]2([H:9])[C@@:3]3([H:10])[C:4]([H:11])([H:12])[N:5]1[C@@:6]23[H:13]>>[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:6]([H:13])[N+:5]12[C-:3]([H:10])[C:4]2([H:11])[H:12],66.9144754059864
[C:1]([C:3]([O:2][C:5](=[O:6])[H:10])=[O:4])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3](=[O:4])[C:5](=[O:6])[H:10])([H:7])([H:8])[H:9],91.2711598606816
[C:1]([C:4]([C@@:2]([O:3][H:12])([O:7]/[C:6](=[N:5]/[H:15])[H:16])[H:11])([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],64.53522043926219
[N:1](=[C:2]=[C:7]([C:6]([N+:3](=[N-:4])[H:9])=[O:5])[H:10])[H:8]>>[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4],26.077883775728807
[O:1]=[C:4]1[C:3]([H:8])([H:9])[C:2]([C:6]#[N:7])=[C:5]1[H:10]>>[O:1]=[C:2]([C:3]([C:4]#[C:5][H:10])([H:8])[H:9])[C:6]#[N:7],129.7032152202427
[O:1]1[C@:2](/[C:3](=[N:5]\[C:6](=[O:7])[H:12])[H:9])([H:8])[C:4]1([H:10])[H:11]>>[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8],46.15219134172871
[N:1](=[C:2]=[C:3]([H:8])[H:9])[N+:7]#[C-:6].[O:4]=[C:5]([H:10])[H:11]>>[N:1]#[C:2][C:3]([O:4][C:5]([C:6]#[N:7])([H:10])[H:11])([H:8])[H:9],22.3329110603011
[N:1]([C:2](=[O:3])[O:4]/[C:5](=[N:6]/[H:10])[H:9])([H:7])[H:8]>>[C:2](=[O:3])=[O:4].[C:5]=[N:6][H:10].[N:1]([H:7])([H:8])[H:9],49.209290203467795
[O:1]([C:2]([C:3]([C@@:4]([O:5][H:14])([C:6]#[C:7][H:15])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8]>>[C:3](=[C:4]([O:5][H:14])[H:13])([H:11])[H:12].[C:6](#[C:7][H:15])[H:8].[O:1]=[C:2]([H:9])[H:10],53.873765135490295
[N:1](=[C:2]=[C:7]([C:6]=[O:5])[H:10])[H:8].[N:3]=[N:4][H:9]>>[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4],1.609136793096141
[C:1]([C@@:2]([O:3][H:11])([C:4](=[O:5])[N:6]([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([O:3][H:11])(/[C:4]([O:5][H:12])=[N:6]\[H:13])[H:10])([H:7])([H:8])[H:9],42.022960047899204
[C:1]([c:3]1[c:2]([H:11])[c:5]([C:7]([H:12])([H:13])[H:14])[o:6][n:4]1)([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]#[N:4])([C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],62.431494466404104
